US05629406
1-[(2S,3S)-3-(N2 -Benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-N-(1,1-dimethyl-2-hydroxypropyl)-L-prolinamide
79 mg (0.24 mmol) of N-benzyloxycarbonyl-N-(1,1-dimethyl-2-hydroxypropyl)-L-prolinamide were subjected to debenzyloxycarbonylation in a similar manner to that described in Example 17, and then the resulting product was condensed with 106 mg (0.24 mmol) of (2S,3S)-3-(N2 -benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyric acid in a similar manner to that described in Example 1, to give 98 mg of the title compound as a colorless powder, melting at 102°-104° C.

reactant | N-benzyloxycarbonyl-N-(1,1-dimethyl-2-hydroxypropyl)-L-prolinamide | 0.24 mmol, 79 mg | C(C1=CC=CC=C1)OC(=O)N(C([C@H]1NCCC1)=O)C(C(C)O)(C)C | C18H26N2O4
reactant | (2S,3S)-3-(N2 -benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyric acid | 0.24 mmol, 106 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)O)O)CC1=CC=CC=C1 | C22H25N3O7
product | 1-[(2S,3S)-3-(N2 -Benzyloxycarbonyl-L-asparaginyl)amino-2-hydroxy-4-phenylbutyryl]-N-(1,1-dimethyl-2-hydroxypropyl)-L-prolinamide | 98 mg | C(C1=CC=CC=C1)OC(=O)N[C@@H](CC(N)=O)C(=O)N[C@H]([C@@H](C(=O)N1[C@H](C(=O)NC(C(C)O)(C)C)CCC1)O)CC1=CC=CC=C1 | C32H43N5O8
